US08975254B2
a) 2-chloro-3-methyl-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)-benzonitrile
The title compound was prepared from 2-chloro-4-iodo-3-methylbenzonitrile (3.52 g, 12.68 mmol) and 1-(tetrahydro-2H-pyran-2-yl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (3.88 g, 13.95 mmol) using the method of Example 34(a) affording 2.62 g of the title compound.

reactant | 2-chloro-4-iodo-3-methylbenzonitrile | 12.68 mmol, 3.52 g | ClC1=C(C#N)C=CC(=C1C)I | C8H5ClIN
reactant | 1-(tetrahydro-2H-pyran-2-yl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 13.95 mmol, 3.88 g | O1C(CCCC1)N1N=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
product | 2-chloro-3-methyl-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)-benzonitrile | 2.62 g | ClC1=C(C#N)C=CC(=C1C)C1=CC=NN1C1OCCCC1 | C16H16ClN3O
